US05063247
To a 10 ml toluene solution of 1.0 g (4.04 mmol) of 4-nonylbenzoic acid was added 0.66 ml (4.28 mmol) of triethylamine. After stirring at room temperature for 15 minutes, 0.89 ml (4.12 mmol) of DPPA (diphenoxy phosphoryl azide) was added to the mixture. The whole was heated for 2 hours under reflux and then cooled to room temperature. After the addition of 0.77 ml (4.08 mmol) of 2,6-diisopropylaniline, the reaction mixture was stirred for 16 hours and then concentrated. The residue was purified by subjecting it to column chromatography over silica gel (eluent: n-hexane/chloroform=1/1) to give 1.07 g (62% yield) of 1-(4-nonylphenyl)-3-(2,6-diisopropylphenyl)urea, the physical properties of which being shown in the following Table 3. The compounds No. 5, No. 6, No. 7, No. 8, No. 9, No. 10, No. 12, No. 16, No. 20, No. 21, No. 22, No. 23, and No. 26 listed in Table 3 were similarly prepared as above.

reactant | 4-nonylbenzoic acid | 4.04 mmol, 1.0 g | C(CCCCCCCC)C1=CC=C(C(=O)O)C=C1 | C16H24O2
reactant | triethylamine | 4.28 mmol, 0.66 ml | C(C)N(CC)CC | C6H15N
reactant | DPPA | 4.12 mmol, 0.89 ml | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | 2,6-diisopropylaniline | 4.08 mmol, 0.77 ml | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-nonylphenyl)-3-(2,6-diisopropylphenyl)urea | 1.07 g, 62% yield | C(CCCCCCCC)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C28H42N2O
